US06599917B1
e) 2-Benzyl-6-(cis-3,4-dimethoxypyrrolidine-1-yl)-3-iodopyridine
708 mg of N-iodosuccinimide was added little by little to a mixture of 783 mg of 2-benzyl-6-(cis-3,4-dimethoxypyrrolidine-1-yl)pyridine and 7.0 ml of N,N-dimethylformamide under ice-cooling, followed by stirring overnight as it was. The reaction solution was poured into water and extracted with ethyl acetate. The organic phase was washed with sodium thiosulfate, water and brine, and the solvent was removed. Then, the residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane/ethyl acetate (5:1) and then with hexane/ethyl acetate (3:1), to give 995 mg of the target compound.

reactant | N-iodosuccinimide | 708 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 2-benzyl-6-(cis-3,4-dimethoxypyrrolidine-1-yl)pyridine | 783 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]([C@H](C1)OC)OC | C18H22N2O2
reactant | N,N-dimethylformamide | 7.0 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Benzyl-6-(cis-3,4-dimethoxypyrrolidine-1-yl)-3-iodopyridine | 995 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@H](C1)OC)OC | C18H21IN2O2
